US07585878B2
A 1.2M hydrochloric acid-ethanol solution of N-(2-oxo-1,2-dihydroquinolin-7-yl)acetamide was heated under reflux to obtain 7-aminoquinolin-2(1H)-one.

reactant | hydrochloric acid ethanol | 1.2M | Cl.C(C)O
reactant | N-(2-oxo-1,2-dihydroquinolin-7-yl)acetamide | O=C1NC2=CC(=CC=C2C=C1)NC(C)=O | C11H10N2O2
product | 7-aminoquinolin-2(1H)-one | NC1=CC=C2C=CC(NC2=C1)=O | C9H8N2O
